US07816558B2
87 mg of tetrakis(triphenylphosphine)palladium was added to a toluene (25 ml) suspension of 966 mg of methyl 2-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)isonicotinate, 610 mg of phenylboronic acid and 518 mg of potassium carbonate, followed by heating at 100° C. in an argon atmosphere for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5 to 70:30) to obtain 758 mg of methyl 2-(2-cyanobiphenyl-4-yl)isonicotinate.

reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl 2-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)isonicotinate | 966 mg | C(#N)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C=1C=C(C(=O)OC)C=CN1 | C15H9F3N2O5S
reactant | phenylboronic acid | 610 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 518 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | methyl 2-(2-cyanobiphenyl-4-yl)isonicotinate | 758 mg | C(#N)C1=C(C=CC(=C1)C=1C=C(C(=O)OC)C=CN1)C1=CC=CC=C1 | C20H14N2O2
